US04065477
A solution of 2-benzoyl-6-nitrobenzoic acid (2.0 grams; 0.0074 mole) in 10 mls. of concentrated sulfuric acid (99.5% by weight) was stirred at 100° C for 3 hours, then cooled to room temperature and poured into a mixture of ice and water. The resulting mixture was filtered to recover the precipitated solids. The filter cake was then washed successively with a dilute aqueous solution of sodium carbonate and water, and dried to obtain 1-nitroanthraquinone (1.59 grams; 85% yield). The product was identified by comparison of its vapor phase chromatographic spectrum with that of an authentic sample.

reactant | 2-benzoyl-6-nitrobenzoic acid | 0.0074 mole, 2.0 grams | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C(=CC=C1)[N+](=O)[O-] | C14H9NO5
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 1-nitroanthraquinone | 1.59 grams, 85% yield | [N+](=O)([O-])C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H7NO4
